US07238808B2
Step 2) 3-Trifluoromethyl-pyridin-2-ylamine
To conc. H2SO4 (230 mL) at 5° C. was dropwise added (4-methoxy-benzyl)-(3-trifluoromethyl-pyridin-2-yl)-amine (83.76 g, 297 mmol) keeping the internal temperature below 20° C. Stirring was continued at 23° C. for 30 min, poured onto ice, made alkaline with 32% NaOH-sol. (ca. 800 mL) [external ice cooling necessary!!!], saturated with solid NaCl, extracted twice with THF/TBME/DCM, dried over Na2SO4. Removal of the solvent in vacuum gave the product as a white solid (44.27 g, 92%). MS (ISP) 163.2 [(M+H)+].

reactant | (4-methoxy-benzyl)-(3-trifluoromethyl-pyridin-2-yl)-amine | 297 mmol, 83.76 g | COC1=CC=C(CNC2=NC=CC=C2C(F)(F)F)C=C1 | C14H13F3N2O
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 230 mL | OS(=O)(=O)O | H2O4S
product | 3-Trifluoromethyl-pyridin-2-ylamine | 44.27 g, 92% | FC(C=1C(=NC=CC1)N)(F)F | C6H5F3N2
